US08912188B2
To a solution of methyl 3-chloro-7-methoxy-2-oxo-1,2-dihydroquinoxaline-6-carboxylate (1.2 g, 4.47 mmol) in DMSO (20 mL) was added DIEA (1.16 g, 8.98 mmol) and methyl(propan-2-yl)amine (490 mg, 6.70 mmol) with stirring at 85° C. overnight. The reaction mixture was cooled to room temperature. The product was precipitated by the addition water and the solids were collected by filtration to afford methyl 3-(isopropyl(methyl)amino)-7-methoxy-2-oxo-1,2-dihydroquinoxaline-6-carboxylate as a light yellow solid (1.0 g, 73%).

reactant | methyl 3-chloro-7-methoxy-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | 4.47 mmol, 1.2 g | ClC=1C(NC2=CC(=C(C=C2N1)C(=O)OC)OC)=O | C11H9ClN2O4
reactant | DIEA | 8.98 mmol, 1.16 g | CCN(C(C)C)C(C)C | C8H19N
reactant | methyl(propan-2-yl)amine | 6.70 mmol, 490 mg | CNC(C)C | C4H11N
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | methyl 3-(isopropyl(methyl)amino)-7-methoxy-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | 1.0 g, 73% | C(C)(C)N(C=1C(NC2=CC(=C(C=C2N1)C(=O)OC)OC)=O)C | C15H19N3O4
